* Unit fixture: coupled inductors (1:1 transformer), sine drive.
Vin in 0 DC 0 SIN(0 1 10k)
Rs in p 50
L1 p 0 1m
L2 s 0 1m
K1 L1 L2 0.99
RL s 0 1k
.tran 1u 0.5m
.end
